// 5T OTA characterization stim=cm - tsmc18 BCD gen2, ideal bias
simulator lang=spectre
global 0
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

Vdd   (vdd   0)     vsource dc=1.8 mag=0
Vcm   (vincm 0)     vsource dc=0.9 mag=1
Vbias (vbias 0)     vsource dc=0.63
Vinp  (vinp  vincm) vsource dc=0 mag=0

Lfb (vout vinn)  inductor l=1T
Cac (vinn vincm) capacitor c=1T

M1 (vx    vinp vtail 0)   nch_mac w=3.0u l=1.0u nf=1
M2 (vout  vinn vtail 0)   nch_mac w=3.0u l=1.0u nf=1
M3 (vx    vx   vdd   vdd) pch_mac w=6.0u l=1.0u nf=1
M4 (vout  vx   vdd   vdd) pch_mac w=6.0u l=1.0u nf=1
M5 (vtail vbias 0    0)   nch_mac w=5.0u l=1.0u nf=1
CL (vout 0) capacitor c=1.0p

save vout
opInfo info what=oppoint where=rawfile
ac ac start=1 stop=10G dec=40
